### PR TITLE
[Merged by Bors] - chore(Nat/Factorization/Induction): recursors

### PR DESCRIPTION
**Pull request by plp127**
Name the motive `motive` and name the minor premises according to their constructors. Also clean up `Nat.recOnMul.hp''`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Nat/Factorization/Induction.lean [hunk 1]
```diff
@@ -41,47 +42,49 @@ def recOnPrimePow {P : ℕ → Sort*} (h0 : P 0) (h1 : P 1)
...
+    (prime_mul : ∀ p a : ℕ, p.Prime → motive a → motive (p * a)) : ∀ n, motive n := by
+  refine recOnPrimePow zero one ?_
   rintro a p n hp - - ha
   induction' n with n ih
   · simpa using ha
   · rw [pow_succ', mul_assoc]
-    exact h _ _ hp ih
+    exact prime_mul _ _ hp ih
 
 lemma prime_composite_induction {P : ℕ → Prop} (zero : P 0) (one : P 1)
```
Comment (eric-wieser) [inline Mathlib/Data/Nat/Factorization/Induction.lean]: This one could be `motive`d too.

**Review by eric-wieser — APPROVED** [review]
bors d+

Thanks!

File: Mathlib/Data/Nat/Factorization/Induction.lean (hunk 1 above)
Comment (plp127) [reply Mathlib/Data/Nat/Factorization/Induction.lean]: Don't know how I missed that one!
